US09193693B2
Step 4. 3-(Methyl(phenethyl)amino)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(methyl(phenethyl)amino)-2-phenylquinoxaline-6-carboxylate (144.7 mg, 0.35 mmol, 1.00 equiv, 96%) in methanol (20 mL). This was followed by the dropwise addition of a solution of sodium hydroxide (72.9 mg, 1.82 mmol, 5.00 equiv) in water (2 mL) with stirring. The resulting solution was stirred overnight at 50° C. in an oil bath. Then it was concentrated under vacuum and diluted with 10 ml of water. The pH value of the aqueous solution was adjusted to 3-4 with 1N aq. hydrogen chloride. The resulting solid was collected by filtration and washed with methanol. This resulted in 52.6 mg (38%) of 3-(methyl(phenethyl)amino)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(methyl(phenethyl)amino)-2-phenylquinoxaline-6-carboxylate | 0.35 mmol, 144.7 mg, 1.00 equiv | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1)CCC1=CC=CC=C1 | C25H23N3O2
reactant | sodium hydroxide | 1.82 mmol, 72.9 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-(Methyl(phenethyl)amino)-2-phenylquinoxaline-6-carboxylic acid | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1)CCC1=CC=CC=C1 | C24H21N3O2
